US04831151
56 mg (0.2 mmol) of 1-amino-3-[[p-(dimethylamino)-benzylidene]amino]-2-methylimidazolium chloride and 30 mg (0.2 mmol) of p-nitrobenzaldehyde are dissolved in 5 ml of glacial acetic acid. After 2 days the solution is evaporated, and the residue is chromatographed on 5 g of silica gel (particle size 0.063-0.200 mm) while eluting chloroform/methanol (87:13) and recrystallized from methylene chloride/petroleum ether. There is obtained 1-[[p-(dimethylamino)benzylidene]amino]-2-methyl-3-[[p-nitrobenzylidene]amino]-imidazolium chloride of melting point 252° (decomposition).

reactant | 1-amino-3-[[p-(dimethylamino)-benzylidene]amino]-2-methylimidazolium chloride | 0.2 mmol, 56 mg | [Cl-].N[N+]1=C(N(C=C1)N=CC1=CC=C(C=C1)N(C)C)C
reactant | p-nitrobenzaldehyde | 0.2 mmol, 30 mg | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-methyl-3-[[p-nitrobenzylidene]amino]-imidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)[N+](=O)[O-])C)C=C1)C | InChI=1S/C20H21N6O2.ClH/c1-16-24(21-14-17-4-8-19(9-5-17)23(2)3)12-13-25(16)22-15-18-6-10-20(11-7-18)26(27)28;/h4-15H,1-3H3;1H/q+1;/p-1
